US04960884
In a manner similar to Sosnovsky et al. (Synthesis, p 722, (1979)), the reaction of 3.0 grams (0.014 mole) of -(2-fluoroethoxy)-3-nitrobenzaldehyde (prepared by the method of Example 1 from 4-hydroxy-3-nitrobenzaldehyde), 1.1 gram (0.015 mole) of hydroxylamine hydrochloride, and 1.2 ml (0.014 mole) of pyridine (dissolved in 10 ml of chloroform) in 50 ml of chloroform and ethanol (70/30 mixture) followed by treatment with 1.6 gram (0.014 mole) of selenium dioxide yielded 2.3 grams of 4-cyano-2-nitrophenyl 2-fluoroethyl ether as a solid.

reactant | (2-fluoroethoxy)-3-nitrobenzaldehyde | FCCOC1=C(C=O)C=CC=C1[N+](=O)[O-] | C9H8FNO4
reactant | 4-hydroxy-3-nitrobenzaldehyde | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | hydroxylamine hydrochloride | 0.015 mole, 1.1 gram | Cl.NO
reactant | pyridine | 0.014 mole, 1.2 ml | N1=CC=CC=C1 | C5H5N
reactant | selenium dioxide | 0.014 mole, 1.6 gram | [Se](=O)=O | O2Se
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
product | 4-cyano-2-nitrophenyl 2-fluoroethyl ether | 2.3 grams | FCCOC1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C9H7FN2O3
